US07026352B1
(8E,12E,14E)-7-Acetoxy-21-ethoxyacetoxy-6-(1-ethoxyethoxy)-3-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide
A 1.0 M solution of tetrabutylammonium fluoride in tetrahydrofuran (0.037 mL, 0.037 mmol) was added to a solution of (8E,12E,14E)-7-acetoxy-3-t-butyldimethylsiloxy-21-ethoxyacetoxy-6-(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (15 mg, 0.018 mmol) in tetrahydrofuran (1 mL) at room temperature. The mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and evaporated. The resulting crude product was purified by silica gel column chromatography (Kanto silica gel 60N, spherical, neutral, 40 to 100 μm, eluate; hexane:ethyl acetate=50:50) to obtain the title compound (8.8 mg, 68%) as a colorless oil.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (8E,12E,14E)-7-acetoxy-3-t-butyldimethylsiloxy-21-ethoxyacetoxy-6-(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.018 mmol, 15 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(COCC)=O)C)O1)C)\C)O[Si](C)(C)C(C)(C)C)(C)OC(C)OCC | C44H76O11Si
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 0.037 mmol, 0.037 mL | O1CCCC1 | C4H8O
product | (8E,12E,14E)-7-Acetoxy-21-ethoxyacetoxy-6-(1-ethoxyethoxy)-3-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 8.8 mg, 68% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(COCC)=O)C)O1)C)\C)O)(C)OC(C)OCC | C38H62O11
